US07087756B2
159 mg (0.73 mmol) of 3-methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide is suspended in 4 ml of THF under argon. At −5° C. a solution of butyl lithium (1.0 ml, 1.6M in hexane, 1.6 mmol, 2.2 eq.) is slowly added. After 1 h at this temperature, the solution is warmed to 0° C. and 0.92 ml (0.88 mmol, 1.2 eq.) of benzonitrile is slowly added. Under warming to room temperature, the red solution is stirred for another 2 h, then quenched with 0.1 ml of water and concentrated. The residue is then taken up in 4 ml of a 4M solution of HCl in dioxane and the suspension stirred for 16 h at room temperature. Then, the solvent is removed and the residue dissolved in ethyl acetate and carefully neutralised with sat. NaHCO3-solution. The phases are separated and the organic phases washed with brine, dried over Na2SO4 and concentrated. Chromatographic purification (hexane/ethyl acetate 90:10) yields 108 mg (48%) of 5-methyl-3,6-diphenyl-5H-isoxazolo[4,3-c]pyridin-4-one as a white solid. Mass spectrum: m/z (M+H)+: 303.2

reactant | 3-methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide | 0.73 mmol, 159 mg | CNC(=O)C=1C(=NOC1C1=CC=CC=C1)C | C12H12N2O2
reactant | butyl lithium | 1.6 mmol, 1.6M, 1.0 ml, 2.2 eq. | C(CCC)[Li]
reactant | benzonitrile | 0.88 mmol, 0.92 ml, 1.2 eq. | C(C1=CC=CC=C1)#N | C7H5N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 5-methyl-3,6-diphenyl-5H-isoxazolo[4,3-c]pyridin-4-one | 108 mg, 48% | CN1C(C=2C(C=C1C1=CC=CC=C1)=NOC2C2=CC=CC=C2)=O | C19H14N2O2
